US06780855B2
92 mg of 11β-fluoro-3-hydroxy-7α-{5-[methyl-(9,9,10,10,10-pentafluoro-decyl)-amino]-pentyl}-estra-1,3,5(10)-trien-17-one is dissolved in 2 ml of methanol and mixed with 23 mg of sodium borohydride. After 1 hour of stirring at room temperature, the solvent is drawn off in a vacuum for the most part, the residue is mixed with common salt solution, extracted 3 times with methylene chloride, dried on magnesium sulfate and concentrated by evaporation in a vacuum. Preparative thin-layer chromatography with methylene chloride/methanol=9/1 as a mobile solvent provides 42 mg of 11β-fluoro-7α-{5-[methyl-(9,9,10,10,10-pentafluoro-decyl)-amino]-pentyl}-estra-1,3,5(10)-triene-3,17β-diol as a foam, [α]D=+44° (c=1.0 in chloroform).

reactant | 11β-fluoro-3-hydroxy-7α-{5-[methyl-(9,9,10,10,10-pentafluoro-decyl)-amino]-pentyl}-estra-1,3,5(10)-trien-17-one | 92 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCN(CCCCCCCCC(C(F)(F)F)(F)F)C)O | C34H49F6NO2
reactant | sodium borohydride | 23 mg | [BH4-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | 11β-fluoro-7α-{5-[methyl-(9,9,10,10,10-pentafluoro-decyl)-amino]-pentyl}-estra-1,3,5(10)-triene-3,17β-diol | 42 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)CCCCCN(CCCCCCCCC(C(F)(F)F)(F)F)C)O | C34H51F6NO2
